US07893056B2
To a solution of (3S)-5-oxo-N,4-bis(phenylmethyl)-3-morpholinecarboxamide (6.3109 g, 19.45 mmol) in 1,2-dimethoxyethane (100 mL) was added LiAlH4 (2.6 g, 68.51 mmol). The mixture was heated at 100° C. and stirred for 6 h, and then cooled to 60° C. and stirred overnight. The mixture was cooled to 0° C. and quenched by slow addition of 1 N aq. NaOH (100 mL). The mixture was extracted with Et2O (2×150 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by gradient silica gel chromatography (1% to 5% MeOH in DCM) to give 1-phenyl-N-{[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine (3.8342 g, 66%) as a light yellow oil. LCMS: (M+H)+: 297.1.

reactant | (3S)-5-oxo-N,4-bis(phenylmethyl)-3-morpholinecarboxamide | 19.45 mmol, 6.3109 g | O=C1COC[C@H](N1CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C19H20N2O3
reactant | LiAlH4 | 68.51 mmol, 2.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
product | 1-phenyl-N-{[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine | 3.8342 g, 66% | C1(=CC=CC=C1)CNC[C@H]1N(CCOC1)CC1=CC=CC=C1 | C19H24N2O
